US08084470B2
2.67 g (7.0 mmol) of HATU and 4.0 ml (23.2 mmol) of DIPEA were added at 0° C. to a solution of 1.0 g (5.8 mmol) of 2-chloro-6-methyl-nicotinic acid in DMF (20 ml), and the mixture was stirred for 20 min at 0° C. At that temperature, 656 mg (5.8 mmol) of thiophen-2-ylmethylamine were added. Stirring was then carried out for 16 h at RT. The mixture was then diluted with EA and washed in succession with sat. aq. NaHCO3 solution and brine. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. CC (hexane/EA 4:1) of the residue yielded 966 mg (3.6 mmol, 63%) of 2-chloro-6-methyl-N-(thiophen-2-ylmethyl)nicotinamide.

reactant | HATU | 7.0 mmol, 2.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 23.2 mmol, 4.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-6-methyl-nicotinic acid | 5.8 mmol, 1.0 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | thiophen-2-ylmethylamine | 5.8 mmol, 656 mg | S1C(=CC=C1)CN | C5H7NS
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
solvent | hexane EA | CCCCCC.CC(OCC)=O
product | 2-chloro-6-methyl-N-(thiophen-2-ylmethyl)nicotinamide | 3.6 mmol, 966 mg, 63% | ClC1=C(C(=O)NCC=2SC=CC2)C=CC(=N1)C | C12H11ClN2OS
